US05786358
A solution of 33 mg (0.062 mmol) of N-{5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine ethyl ester in 3.0 mL of 1.0N sodium hydroxide was stirred at room temperature for 24 hours. The reaction mixture was then acidified with 1.0N hydrochloric acid and the white precipitate was collected by filtration to give 28 mg of N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine.

reactant | N-{5-[2-(2-pivaloylamino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine ethyl ester | 0.062 mmol, 33 mg | C(C)OC(CNS(=O)(=O)C=1SC(=CC1)CCC1CC2=C(N=C(N=C2O)NC(C(C)(C)C)=O)NC1)=O | C22H31N5O6S2
reactant | hydrochloric acid | 1.0N | Cl | ClH
solvent | sodium hydroxide | 1.0N, 3.0 mL | [OH-].[Na+]
product | N-{5-[2-(2-amino-4-hydroxy-5,6,7,8-tetrahydropyrido[2,3-d]pyrimidin-6-yl)-ethyl]thien-2-ylsulfonyl}glycine | 28 mg | NC=1N=C(C2=C(N1)NCC(C2)CCC2=CC=C(S2)S(=O)(=O)NCC(=O)O)O | C15H19N5O5S2
